US06992083B2
To a stirred solution of 350 g (10.1 mmol) (7-iodo-4-methoxy-benzooxazol-2-yl)-carbamic acid methyl ester in 50 ml dioxane were added 5.63 g (15.1 mmol) tributyl-(3,6-dihydro-2H-pyran-4-yl)-stannane, 173 mg (0.30 mmol) bis(dibenzylideneacetone)palladium(0), 374 mg (1.61 mmol) tri(2-furyl)phospine. The mixture was heated at 100° C. for 22 h and then poured onto water and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (2/98 methanol/dichloromethane then 5/95 methanol/dichloromethane) followed by trituration in dichloromethane afforded 1.30 g (42%) [7-(3,6-dihydro-2H-pyran-4-yl)-4-methoxy-benzooxazol-2-yl]-carbamic acid methyl ester as a white solid. ES-MS m/e (%): 305 (M+H+, 100).

reactant | (7-iodo-4-methoxy-benzooxazol-2-yl)-carbamic acid methyl ester | 10.1 mmol, 350 g | COC(NC=1OC2=C(N1)C(=CC=C2I)OC)=O | C10H9IN2O4
reactant | tributyl-(3,6-dihydro-2H-pyran-4-yl)-stannane | 15.1 mmol, 5.63 g | C(CCC)[Sn](C=1CCOCC1)(CCCC)CCCC
reactant | tri(2-furyl)phospine | 1.61 mmol, 374 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.30 mmol, 173 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | [7-(3,6-dihydro-2H-pyran-4-yl)-4-methoxy-benzooxazol-2-yl]-carbamic acid methyl ester | 1.30 g, 42% | COC(NC=1OC2=C(N1)C(=CC=C2C=2CCOCC2)OC)=O | C15H16N2O5
